US04640707
A mixture of 6-amino-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one (0.8 g), 3,4,5,6-tetrahydrophthalic anhydride (0.61 g) and acetic acid (20 ml) was heated under reflux for 2 hours. After being allowed to cool, water was added to the mixture, and the precipitated crystals were collected by filtration and washed with water. Recrystallization from ethanol gave 2-[4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-on-6-yl]-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione (0.4 g). m.p., 205°-206° C.

reactant | 6-amino-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one | 0.8 g | NC=1C=CC2=C(N(C(CO2)=O)CC#C)C1 | C11H10N2O2
reactant | 3,4,5,6-tetrahydrophthalic anhydride | 0.61 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-[4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-on-6-yl]-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | 0.4 g | C(C#C)N1C(COC2=C1C=C(C=C2)N2C(C=1CCCCC1C2=O)=O)=O | C19H16N2O4
